US07981318B2
100 μl of benzene, 2.0 ml of dimethyl sulfoxide, 2.0 ml of a 1 N dimethyl sulfoxide solution of sulfuric acid, 1.0 ml of a 3.0 mol/l dimethyl sulfoxide solution of trifluoromethyl iodide, 0.2 ml of a 30% hydrogen peroxide aqueous solution and 0.3 ml of a 1.0 mol/l aqueous solution of iron(II) sulfate were charged in a two-neck flask in which the atmosphere was replaced with argon, and the mixture was stirred for 20 minutes. During the stirring, the temperature of the reaction system rose up in the range of from 40° C. to 50° C. Thereafter the resulting solution was cooled to room temperature. Formation of trifluoromethylbenzene (19F-NMR yield: 20%) was confirmed by 19F-NMR with 2,2,2-trifluoroethanol as an internal standard. The subsequent procedure was conducted in the same manner as in Example 1 and trifluoromethylbenzene was obtained as a colorless oil (0.02 g, yield: 13%).

reactant | benzene | 100 μl | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | hydrogen peroxide | OO | H2O2
catalyst | iron(II) sulfate | S(=O)(=O)([O-])[O-].[Fe+2]
solvent | dimethyl sulfoxide | 3.0 mol/l | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1 N | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2.0 ml | CS(=O)C | C2H6OS
product | trifluoromethylbenzene | yield: 20% | FC(F)(F)C1=CC=CC=C1 | C7H5F3
